US08247403B2
(3) 9-cyclobutyl-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride
A mixture of tert-butyl 9-cyclobutyl-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (40.0 mg, 0.132 mmol), ethyl acetate (2 ml) and 4N hydrogen chloride-ethyl acetate solution (2 ml) was stirred at room temperature for 1 hr, and the solvent was evaporated under reduced pressure. The residue was recrystallized from a mixed solvent of methanol and ether to give the desired product (25.0 mg, 79.1%) as a solid.

reactant | tert-butyl 9-cyclobutyl-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.132 mmol, 40.0 mg | C1(CCC1)C1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C18H25NO3
reactant | hydrogen chloride-ethyl acetate | 4N, 2 ml | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
product | 9-cyclobutyl-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride | 25.0 mg, 79.1% | Cl.C1(CCC1)C1=CC=CC=2CNCCOC21 | InChI=1S/C13H17NO.ClH/c1-3-10(4-1)12-6-2-5-11-9-14-7-8-15-13(11)12;/h2,5-6,10,14H,1,3-4,7-9H2;1H
